US07129238B2
3-Oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde (CAS 200195-15-9) was reacted according to general procedure A using methanol/dioxane as a solvent. The product of this reaction was subsequently coupled with 4-aminomethyl benzonitrile according to general procedure C to give (RS)-N-(4-cyano-benzyl)-2-methoxy-2-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-acetamide. Light yellow solid.

reactant | 3-Oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde | O=C1COC2=C(N1)C=C(C=C2)C=O | C9H7NO3
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
reactant | methanol dioxane | CO.O1CCOCC1
product | (RS)-N-(4-cyano-benzyl)-2-methoxy-2-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-acetamide | C(#N)C1=CC=C(CNC(C(C=2C=CC3=C(NC(CO3)=O)C2)OC)=O)C=C1 | C19H17N3O4
